US07977351B2
5-Fluoro-3-[2-(2-morpholin-4-yl-ethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one
A solution of 5-fluoro-1,3-dihydro-indol-2-one (70 mg, 0.46 mmol) in THF (0.6 mL) is placed under an Argon atmosphere and cooled in an ice bath. A solution of lithium bis(trimethylsilyl)amide (1.2 mL of a 1.0 M solution in THF, 1.2 mmol) is added slowly at 0° C. and the resulting solution is stirred for 10 min. The ice-bath is then removed and a solution of 2-(2-morpholin-4-yl-ethyl)-7H-furo[3,4-b]pyridin-5-one (80 mg, 0.32 mmol) in THF (2 mL) and added dropwise to the reaction mixture. The resulting solution is stirred for 4 h and then poured into an aqueous 10% HCl solution (40 mL). The resulting suspension is stirred at room temperature for 48 h. The yellow solid which precipitated from solution is collected by filtration and washed with 10% HCl, MeOH (3×5 mL) and Et2O (3×5 mL), and dried under vacuum overnight to give the title compound (33 mg, 27%).

reactant | 5-fluoro-1,3-dihydro-indol-2-one | 0.46 mmol, 70 mg | FC=1C=C2CC(NC2=CC1)=O | C8H6FNO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 2-(2-morpholin-4-yl-ethyl)-7H-furo[3,4-b]pyridin-5-one | 0.32 mmol, 80 mg | N1(CCOCC1)CCC1=CC=C2C(=N1)COC2=O | C13H16N2O3
reactant | HCl | 40 mL | Cl | ClH
solvent | THF | 0.6 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 5-Fluoro-3-[2-(2-morpholin-4-yl-ethyl)-7H-furo[3,4-b]pyridin-5-ylidene]-1,3-dihydro-indol-2-one | 33 mg, 27% | FC=1C=C2C(C(NC2=CC1)=O)=C1OCC2=NC(=CC=C21)CCN2CCOCC2 | C21H20FN3O3
